US07335674B2
0.716 g (4.16 mmol; 1.1 equivalent) of 2-naphthalene boronic acid as well as a solution of 1.2 g (11.35 mmol; 3 equivalents) of sodium carbonate in 15 ml of water are added to a suspension of 1.09 g (3.78 mmol) of 2-bromo-6-methoxy-7-nitro-1,3-benzothiazole and 131 mg (0.114 mmol; 0.03 equivalent) of palladium tetrakis-triphenylphosphine in 30 ml of 1,2-dimethoxyethane. The reaction mixture is maintained under stirring at 85.5° C. for 18 hours, then after concentration under reduced pressure, 100 ml of ethyl acetate is added to the medium which is then washed with twice 75 ml of a saturated aqueous solution of sodium chloride. The organic phase is dried over sodium sulphate then the solvents are evaporated off under reduced pressure and the residue is purified by chromatography on a silica column (eluent: ethyl acetate/heptane mixture 1:2). 1.06 g (83% yield) of 6-methoxy-2-(2-naphthyl)-7-nitro-1,3-benzothiazole is obtained in the form of beige powder.

reactant | 2-naphthalene boronic acid | 4.16 mmol, 0.716 g, 1.1 equivalent | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium carbonate | 11.35 mmol, 1.2 g, 3 equivalents | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-6-methoxy-7-nitro-1,3-benzothiazole | 3.78 mmol, 1.09 g | BrC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC | C8H5BrN2O3S
solvent | water | 15 ml | O | H2O
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
product | 6-methoxy-2-(2-naphthyl)-7-nitro-1,3-benzothiazole | 1.06 g, 83% yield | COC1=C(C2=C(N=C(S2)C2=CC3=CC=CC=C3C=C2)C=C1)[N+](=O)[O-] | C18H12N2O3S
